US07232821B2
5-[2-(2-(4-fluorobenzyloxy)-5-chlorophenyl)cyclopent-1-enyl]-2-methylbenzoic acid
Trifluoroacetic acid (1 ml) was added to a solution of 5-[2-(2-(4-fluorobenzyloxy)-5-chlorophenyl)cyclopent-1-enyl]-2-methylbenzoic acid t-butyl ester (60 mg 0.12 mmol) in dichloromethane (5 ml). The reaction mixture was stirred at room temperature for three hours. The solvent was evaporated, and the residue chromatographed (RP silica C18, acetonitrile/water 30:70–100:0) to give the title compound as a colourless solid 17 mg 33%.

reactant | Trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 5-[2-(2-(4-fluorobenzyloxy)-5-chlorophenyl)cyclopent-1-enyl]-2-methylbenzoic acid t-butyl ester | 0.12 mmol, 60 mg | C(C)(C)(C)OC(C1=C(C=CC(=C1)C1=C(CCC1)C1=C(C=CC(=C1)Cl)OCC1=CC=C(C=C1)F)C)=O | C30H30ClFO3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 5-[2-(2-(4-fluorobenzyloxy)-5-chlorophenyl)cyclopent-1-enyl]-2-methylbenzoic acid | 17 mg, 33% | FC1=CC=C(COC2=C(C=C(C=C2)Cl)C2=C(CCC2)C=2C=CC(=C(C(=O)O)C2)C)C=C1 | C26H22ClFO3
